US08729263B2
To a solution of 6-(2-methoxy-4-(5-methyloxazol-2-yl)phenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine (106 mg, 0.24 mmol) in 2,4,6 collidine (8 mL, dried over MgSO4, and filtered), was added anhydrous LiI (292 mg, 2.18 mmol). The reaction was stirred at 170° C. for 4 h, then cooled and diluted with small amounts of MeOH and EtOAc (150 mL) and H2O (30 mL). The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified via HPLC to provide 2-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-5-(5-methyloxazol-2-yl)phenol (49 mg). LCMS Rt=0.55 min (LCMS method Q); MS (M+1)=422.3. 1H NMR (400 MHz, METHANOL-d4) δ ppm 8.12 (d, J=9.9 Hz, 1H), 7.86 (d, J=8.8 Hz, 1H), 7.53 (dd, J=6.1, 1.8 Hz, 1H), 7.51 (s, 1H), 7.30 (d, J=10.1 Hz, 1H), 6.92 (d, J=1.0 Hz, 1H), 5.03-5.14 (m, 1H), 3.01 (s, 3H), 2.43 (d, J=1.2 Hz, 3H), 1.68 (dd, J=12.6, 3.5 Hz, 2H), 1.56 (t, J=12.3 Hz, 2H), 1.37 (s, 6H), 1.21 (s, 6H).

reactant | 6-(2-methoxy-4-(5-methyloxazol-2-yl)phenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine | 0.24 mmol, 106 mg | COC1=C(C=CC(=C1)C=1OC(=CN1)C)C1=CC=C(N=N1)N(C1CC(NC(C1)(C)C)(C)C)C | C25H33N5O2
reactant | LiI | 2.18 mmol, 292 mg | [Li+].[I-]
solvent | 2,4,6 collidine | 8 mL | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | MeOH | CO | CH4O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 30 mL | O | H2O
product | 2-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-5-(5-methyloxazol-2-yl)phenol | 49 mg | CN(C1=CC=C(N=N1)C1=C(C=C(C=C1)C=1OC(=CN1)C)O)C1CC(NC(C1)(C)C)(C)C | C24H31N5O2
